US08710242B2
(2E)-3-[4-(N′-Hydroxycarbamimidoyl)-3-(trifluoromethyl)phenyl]-N-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}acrylamide
1.17 g (2.51 mmol) of (2E)-3-[4-cyano-3-(trifluoromethyl)phenyl]-N-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}acrylamide from Example Ia-46 were initially charged in a mixture of 11.7 ml of ethanol and 2.9 ml of water and admixed with 209.6 mg (3.01 mmol) of hydroxylammonium chloride and 399.5 mg (3.77 mmol) of sodium carbonate. The reaction mixture was heated under reflux for 18 hours and then admixed with water. After extracting repeatedly with ethyl acetate, the combined organic phases were dried over magnesium sulphate, the solvent was distilled off under reduced pressure and the residue was chromatographed using silica gel with cyclohexane/ethyl acetate as the eluent (gradient from 0% ethyl acetate to 100% ethyl acetate).

reactant | (2E)-3-[4-cyano-3-(trifluoromethyl)phenyl]-N-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}acrylamide | 2.51 mmol, 1.17 g | C(#N)C1=C(C=C(C=C1)/C=C/C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C(F)(F)F | C20H11F9N2O
reactant | hydroxylammonium chloride | 3.01 mmol, 209.6 mg | [Cl-].O[NH3+]
reactant | sodium carbonate | 3.77 mmol, 399.5 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 11.7 ml | C(C)O | C2H6O
solvent | water | 2.9 ml | O | H2O
product | (2E)-3-[4-(N′-Hydroxycarbamimidoyl)-3-(trifluoromethyl)phenyl]-N-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}acrylamide | ON=C(N)C1=C(C=C(C=C1)/C=C/C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C(F)(F)F | C20H14F9N3O2
